US08466283B2
Preparation of 2-amino-N-[7-methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]isonicotinamide
7-Methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine (100 mg, 0.28 mol) was dissolved in DMF (3 mL), and 2-aminopyridine-4-carboxylic acid (38 mg, 0.28 mmol) was added. PYBOP (217 mg, 0.42 mmol) and diisopropylethylamine (0.15 mL, 0.83 mmol) were subsequently added, and the mixture was stirred at rt overnight. The mixture was purified by HPLC to give the title compound (50 mg, 37%). LC MS RT=1.02 min, MH+=480.3. 1H NMR (DMSO-d6) δ: 13.25 (1H, br s), 10.15 (1H, br s), 8.42 (1H, br s), 8.08 (1H, s), 8.06 (1H, d), 7.43 (1H, d), 7.75 (1H, s), 7.50 (1H, d), 7.38 (1H, dd), 4.50 (2H, dd), 4.35 (2H, br t), 4.27 (2H, dd), 4.01 (3H, s), 3.99 (2H, br s), 3.66 (2H, t), 3.50 (2H, d), 3.31 (2H, br t), 3.13 (2H, m), 2.25 (2H, m).

reactant | 7-Methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine | 0.28 mol, 100 mg | COC1=C(C=CC=2C=3N(C(=NC12)N)CCN3)OCCCN3CCOCC3 | C18H25N5O3
reactant | 2-aminopyridine-4-carboxylic acid | 0.28 mmol, 38 mg | NC1=NC=CC(=C1)C(=O)O | C6H6N2O2
reactant | PYBOP | 0.42 mmol, 217 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.83 mmol, 0.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-amino-N-[7-methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]isonicotinamide | 50 mg, 37% | NC=1C=C(C(=O)NC2=NC=3C(=C(C=CC3C=3N2CCN3)OCCCN3CCOCC3)OC)C=CN1 | C24H29N7O4
